US04473504
To an aqueous solution of cobalt chloride prepared by dissolving 239 g cobalt chloride hydrate (containing 24.4% cobalt) in 2700 ml water, 1313 g of a 80% aqueous sodium carbonate solution was added under stirring to produce an aqueous cobalt carbonate dispersion containing 58.3 g cobalt. This liquid was heated under stirring, and at a constant temperature of 55° l C., 452 g myristic acid (melt initiating temperature 50° C.) in scale form was added over a period of 15 minutes. Stirring was continuted for an additional period of 60 minutes while the temperature was held constant at 55° C. Thereafter, heating was stopped. Cobalt myristate formed in the upper layer of the reaction liquid was filtered off. It was washed with water in the same way as in Example 2, and was dried at 60° C. to obtain 508 g granular cobalt myristate (melting point 90° C.) having an average grain diameter of about 0.8 mm. The cobalt content of this product was 11.35%, and the yield of the product based on the cobalt used was 98.9%.

reactant | cobalt | 58.3 g | [Co] | Co
reactant | myristic acid | 452 g | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
product | Cobalt myristate | C(CCCCCCCCCCCCC)(=O)[O-].[Co+2].C(CCCCCCCCCCCCC)(=O)[O-] | InChI=1S/2C14H28O2.Co/c2*1-2-3-4-5-6-7-8-9-10-11-12-13-14(15)16;/h2*2-13H2,1H3,(H,15,16);/q;;+2/p-2
